US09422279B2
To 2-(benzyloxy)-5-(methoxymethoxy)pyridine (1.8 g, 8.71 mol) in EtOH was added Pd/C (1.0 g). The mixture was charged with H2 (15 psi), stirred at RT for 45 min, filtered, and concentrated to give 5-(methoxymethoxy)pyridin-2-ol (1.35 g, quantitative yield) as a pale yellow solid. MS (ESI) m/z 156.1 [M+H]+.

reactant | 2-(benzyloxy)-5-(methoxymethoxy)pyridine | 8.71 mol, 1.8 g | C(C1=CC=CC=C1)OC1=NC=C(C=C1)OCOC | C14H15NO3
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 5-(methoxymethoxy)pyridin-2-ol | 1.35 g, quantitative yield | COCOC=1C=CC(=NC1)O | C7H9NO3
